US07947689B2
2,3,4-Trimethyl-6,7-dihydro-thieno[3,2-c]pyridine
In close analogy to the procedure described above, N-[2-(4,5-Dimethyl-thiophen-2-yl)-ethyl]-acetamide is reacted with phosphorus pentoxide to provide the title compound.

reactant | N-[2-(4,5-Dimethyl-thiophen-2-yl)-ethyl]-acetamide | CC=1C=C(SC1C)CCNC(C)=O | C10H15NOS
reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | 2,3,4-Trimethyl-6,7-dihydro-thieno[3,2-c]pyridine | CC1=C(C=2C(=NCCC2S1)C)C | C10H13NS
